US08426420B2
i) (S)-Pyrrolidine-1,2-dicarboxylic acid 1-benzyl ester 2-(2-oxo-propyl) ester
To a solution of 2.0 g Z-Pro-OH n 20 ml dichloromethane were added 0.58 ml hydroxyl-acetone and 10 mg DMAP. The solution was cooled to 0° C. and a solution of 1.7 g DCC in 20 ml dichloromethane was added dropwise. The suspension was allowed to warm to RT for 16 h before being filtered over a short plug of Celite. The reaction mixture was washed with dichloro-methane and the combined wash solutions evaporated. The residue thus obtained was purified by chromatography on silica using heptane/ethyl acetate 1:1 as eluent.

reactant | Z-Pro-OH | 2.0 g | N1([C@H](C(=O)O)CCC1)C(=O)OCC1=CC=CC=C1 | C13H15NO4
reactant | hydroxyl-acetone | 0.58 ml | OCC(C)=O | C3H6O2
reactant | DCC | 1.7 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 10 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (S)-Pyrrolidine-1,2-dicarboxylic acid 1-benzyl ester 2-(2-oxo-propyl) ester | O=C(COC(=O)[C@H]1N(CCC1)C(=O)OCC1=CC=CC=C1)C | C16H19NO5
